US06399629B1
(N) N-tert-Butoxycarbonyl-trans-4-(N-tert-Butoxycarbonylamino)-L-Proline Methyl Ester
Di-tert-butyl dicarbonate (589 mL) was added to a stirred solution of trans-4-amino-N-tert-butoxycarbonyl-L-proline methyl ester (M, 418 mg) in tetrahydrofuran (15 mL). The mixture was stirred at room temperature for 15 hr and evaporated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:2, v/v) to give the title compound (678 mg) as a white solid: 1H NMR (400 MHz, CDCl3) δ 1.35-1.56 (m, 18H), 2.08-2.28 (m, 2H), 3.17-3.38 (m, 1H), 3.63-3.82 (m, 2H), 3.73 (s, 1H), 4.21-4.42, (m, 1H), and 4.64 (br s, 1H).

reactant | Di-tert-butyl dicarbonate | 589 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | trans-4-amino-N-tert-butoxycarbonyl-L-proline methyl ester | 418 mg | COC([C@H]1N(C[C@@H](C1)N)C(=O)OC(C)(C)C)=O | C11H20N2O4
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | N-tert-Butoxycarbonyl-trans-4-(N-tert-Butoxycarbonylamino)-L-Proline Methyl Ester | 678 mg | COC([C@H]1N(C[C@@H](C1)NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C16H28N2O6
